US05773463
(±)cis-1-(4-tert-Butylphenoxy)-2-tert-butoxycarbonylaminoindane
A solution of (±) N-tert-butoxycarbonyl-1,2-iminoindane (5 g, 22 mmol), 4-tert-butylphenol (3.34 g, 22 mmol) and pyridinium p-toluenesulfonate (109 mg) in chloroform (150 ml) was heated at reflux for 2 h. On cooling, the solution was washed sequentially with 10% aq. NaOH, water and then brine. After drying over MgSO4, solvents were removed in vacuo and the resultant brown oil subjected to column chromatography on silica gel eluting with 20% diethyl ether in hexanes to afford the title compound (1.42 g).

reactant | (±) N-tert-butoxycarbonyl-1,2-iminoindane | 22 mmol, 5 g | C(C)(C)(C)OC(=O)N1C2C1CC1=CC=CC=C21 | C14H17NO2
reactant | 4-tert-butylphenol | 22 mmol, 3.34 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | pyridinium p-toluenesulfonate | 109 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | (±)cis-1-(4-tert-Butylphenoxy)-2-tert-butoxycarbonylaminoindane | 1.42 g | C(C)(C)(C)C1=CC=C(O[C@H]2[C@H](CC3=CC=CC=C23)NC(=O)OC(C)(C)C)C=C1 | C24H31NO3
